US07425568B2
a) 6-(4-Methoxy-2-nitrophenoxy)-2-phenylchroman
The 2-phenylchroman-6-ol (500 mg) and 1-chloro-4-methoxy-2-nitrobenzene (390 mg) were dissolved in DMSO (10 ml). Potassium hydroxide (230 mg) and potassium iodide (520 mg) were added and the resulting mixture was stirred at 90° C. for 1 hour. After cooling it was poured in to 1 M HCl-solution (20 ml) and extracted with dichloromethane. The combined organic layers were washed with water until neutral and then with saturated NaCl-solution and dried with Na2SO4. After evaporating the solvents the 6-(4-Methoxy-2-nitrophenoxy)-2-phenylchroman was obtained by trituration with methanol. 1H NMR (400 MHz, d6-DMSO) δ: 7.58 (d, 1H, J 3.1 Hz), 7.45-7.33 (m, 6H), 7.28 (dd, 1H, J 9.2 Hz, 3.1 Hz), 7.10 (d, 1H, J 9.2 Hz), 6.86-6.78 (m, 3H), 5.10 (dd, 1H, J 10.0, 1.9 Hz), 3.83 (s, 3H), 2.92 (ddd, 1H, J −16.9, 11.2, 5.9 Hz), 2.75 (ddd, 1H, J −16.9, 7.9, 4.2 Hz), 2.15 (m, 1H), 1.97 (m, 1H).

reactant | 2-phenylchroman-6-ol | 500 mg | C1(=CC=CC=C1)C1OC2=CC=C(C=C2CC1)O | C15H14O2
reactant | 1-chloro-4-methoxy-2-nitrobenzene | 390 mg | ClC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C7H6ClNO3
reactant | Potassium hydroxide | 230 mg | [OH-].[K+]
reactant | potassium iodide | 520 mg | [I-].[K+]
reactant | HCl | 1 M, 20 ml | Cl | ClH
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | 6-(4-Methoxy-2-nitrophenoxy)-2-phenylchroman | COC1=CC(=C(OC=2C=C3CCC(OC3=CC2)C2=CC=CC=C2)C=C1)[N+](=O)[O-] | C22H19NO5
